US04107441
Preparation of 3-bromo-1-octyne
To a stirred suspension of 600 g. of triphenylphosphine in 2000 ml. of acetonitrile, under nitrogen atmosphere, is added dropwise 118 ml. of bromine at a temperature not exceeding 35° C. After stirring for an additional hour, the supernatant liquid is decanted and taken to dryness. The solid residue is combined with the previous solid with 1500 ml. of dimethylformamide. The suspension is stirred at -20° C. and a solution of 200 g. of 1-octyn-3-ol in 300 ml. of dimethylformamide is added in three portions. The temperature is allowed to warm up slowly to 20° C. After three hours the solution is extracted with three 1600 ml. portion of petroleum ether (b.p. 30°-60°). The combined extracts are washed with saturated sodium chloride solution, saturated sodium bicarbonate solution, and finally with saturated sodium chloride solution, dried with anhydrous magnesium sulfate and take to dryness (bath 30°-35° C.). The residual oil was distilled to give 117 g. (39%) of product, b.p. 66°-68°/9mm.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | BrBr | Br2
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-bromo-1-octyne | BrC(C#C)CCCCC | C8H13Br
